US04822893
According to the procedure of L. Florvall et al. J. Med. Chem. 29, 1406 (1986), a solution of KOH (0.75 g) in ethanol (5 mL) was added to a mixture of 2-fluoro-6-nitrotoluene (77.5 g, 0.5 mole) and paraformaldehyde (15 g, 0.5 mole) in DMSO (75 mL). The dark solution was stirred for 3 days at room temperature, diluted with water (1.2 L), neutralized with 2.5N HCl (to pH 6.5) and extracted with ether (3×). The extracts were washed with brine (1×), dried (MgSO4) and evaporated to dryness to yield a yellow solid. Trituration with light petroleum ether removed a small amount of unreacted starting material and provided 2-fluoro-6-nitrophenethyl alcohol as a pale yellow solid, 82.3 g, 89.3%, m.p. 42°-44° C. This material was used for the subsequent reaction without further purification. An analytical sample was purified by flash chromatography (silica Merck-60, hexane-ether 6:4), m.p. 45°-46° C.

reactant | KOH | 0.75 g | [OH-].[K+]
reactant | 2-fluoro-6-nitrotoluene | 0.5 mole, 77.5 g | FC1=C(C(=CC=C1)[N+](=O)[O-])C | C7H6FNO2
reactant | paraformaldehyde | 0.5 mole, 15 g | C=O | CH2O
reactant | HCl | 2.5N, pH 6.5 | Cl | ClH
solvent | ethanol | 5 mL | C(C)O | C2H6O
solvent | DMSO | 75 mL | CS(=O)C | C2H6OS
solvent | water | 1.2 L | O | H2O
product | 2-fluoro-6-nitrophenethyl alcohol | FC1=C(CCO)C(=CC=C1)[N+](=O)[O-] | C8H8FNO3
